US07339058B2
Preparation of 2-(2,2-Difluoroethoxy)-N-(5,8-dimethoxy-[1,2,4]triazolo[1,5-c]pyrimidin-2-yl)-6-(trifluoromethyl)benzenesulfonamide
2-Amino-5,8-dimethoxy[1,2,4]triazolo[1,5-c]pyrimidine (19.5 g, 0.10 mol) and 2-(2,2-difluoro-ethoxy)-6-(trifluoromethyl)benzenesulfonyl chloride (32.5 g, 0.10 mol) were combined in acetonitrile (45 mL) and 3,5-lutidine (17 g, 93% technical, ˜0.16 mol) at room temperature. After 10 minutes, DMSO (0.20 g, 0.0026 mol) was added and the reaction slurry was stirred at room temperature for 24 hours. The mixture was then warmed to 48° C. and acidified by the addition of 2 N HCl (100 mL) over 30 minutes, during which the temperature was allowed to fall to ˜38° C. The warm mixture was stirred for one hour, then cooled to 10° C. The precipitated solids were filtered, washed with water (30 mL), washed with methanol (75 mL), and dried under vacuum to afford 44 g of product as a light tan solid assaying at 98 wt % (89% yield).

reactant | 2-Amino-5,8-dimethoxy[1,2,4]triazolo[1,5-c]pyrimidine | 0.10 mol, 19.5 g | NC1=NN2C(=NC=C(C2=N1)OC)OC | C7H9N5O2
reactant | 2-(2,2-difluoro-ethoxy)-6-(trifluoromethyl)benzenesulfonyl chloride | 0.10 mol, 32.5 g | FC(COC1=C(C(=CC=C1)C(F)(F)F)S(=O)(=O)Cl)F | C9H6ClF5O3S
reactant | 3,5-lutidine | ˜0.16 mol, 17 g | N1=CC(=CC(=C1)C)C | C7H9N
reactant | HCl | 2 N, 100 mL | Cl | ClH
solvent | acetonitrile | 45 mL | C(C)#N | C2H3N
catalyst | DMSO | 0.0026 mol, 0.20 g | CS(=O)C | C2H6OS
product | 2-(2,2-Difluoroethoxy)-N-(5,8-dimethoxy-[1,2,4]triazolo[1,5-c]pyrimidin-2-yl)-6-(trifluoromethyl)benzenesulfonamide | 44 g, 89% yield | FC(COC1=C(C(=CC=C1)C(F)(F)F)S(=O)(=O)NC1=NN2C(=NC=C(C2=N1)OC)OC)F | C16H14F5N5O5S
